US04175091
(a) 6-(p-chlorophenyl)-2,3-dihydro-3,3,6-trimethyloxazolo [3,2-c][3,1]benzazasilinium chloride
To 44.2 g (252 m mol) of 4,4-dimethyl-4,5-dihydro-2-phenyl oxazole in 570 ml of absolute tetrahydrofuran under nitrogen is added at -50° C. to -45° C. with stirring 173 ml (277 m mole) of 1.6 N n-butyl lithium in hexane. Stirring is continued at that temperature for 1.5 hours except for a brief period at the end thereof to allow for warming to -35° C. The resulting mixture containing a yellow precipitate is re-cooled with dry ice-acetone and 61 g (255 m mol) of chloromethyl-p-chlorophenyl methyl chloro silane is added maintaining the temperature at between -78° C. and -55° C. The contents are allowed to warm to room temperature over a period of 3 hours and the resulting homogeneous solution is maintained at room temperature for an additional 20 hours. Addition of 1.2 ml of ether-ligroine (1:1) precipitates a semi-solid. The supernatent liquid is decanted and the residue is combined with 300 ml of methylene chloride and stirred briefly. The light slurry is filtered to remove lithium chloride and the mother liquor is concentrated in vacuo to 67.9 g of pink foam. Most of the foam is dissolved in cold water, sodium chloride solution (ca. 30%) is added, the aqueous phase is extracted with ethyl acetate to remove some impurities, and the remainder is extracted with chloroform. The chloroform phase is dried with sodium sulfate and evaporated. Addition of acetone and ether yields crystalline product having a melting point of 119°-121° C. Recrystallization from acetone-ethyl acetate (Ca. 1:1) provides product melting at 118°-120° C.

reactant | 4,4-dimethyl-4,5-dihydro-2-phenyl oxazole | 44.2 g | CC1(N=C(OC1)C1=CC=CC=C1)C | C11H13NO
reactant | n-butyl lithium | 1.6 N, 173 ml | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | chloromethyl-p-chlorophenyl methyl chloro silane | 61 g | ClC[Si](Cl)(C)C1=CC=C(C=C1)Cl | C8H9Cl3Si
solvent | tetrahydrofuran | 570 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 1.2 ml | CCOCC | C4H10O
product | 6-(p-chlorophenyl)-2,3-dihydro-3,3,6-trimethyloxazolo [3,2-c][3,1]benzazasilinium chloride | [Cl-].ClC1=CC=C(C=C1)[Si]1(C[N+]2=C(C3=C1C=CC=C3)OCC2(C)C)C | InChI=1S/C19H21ClNOSi.ClH/c1-19(2)12-22-18-16-6-4-5-7-17(16)23(3,13-21(18)19)15-10-8-14(20)9-11-15;/h4-11H,12-13H2,1-3H3;1H/q+1;/p-1
